US07179912B2
2-Hydroxy-4-morpholin-4-yl-benzoic acid
To a stirred solution of 2-hydroxy-4-morpholin-4-yl-benzoic acid methyl ester (4.6 g; 19.4 mmol) in MeOH (120 mL) was added water (60 mL) and lithium hydroxide hydrate (4.08 g; 97 mmol). The resulting mixture was heated to 80° C. for 15 hours. The resulting mixture then was washed with EtOAc (3×60 mL), and cooled to 0° C. and acidified with 2 N aqueous hydrochloric acid to pH 4. The resulting precipitate was collected on a Buchner funnel with suction, washed with water, and air dried to provide the acid (4.16 g; 96%).

reactant | 2-hydroxy-4-morpholin-4-yl-benzoic acid methyl ester | 19.4 mmol, 4.6 g | COC(C1=C(C=C(C=C1)N1CCOCC1)O)=O | C12H15NO4
reactant | water | 60 mL | O | H2O
reactant | lithium hydroxide hydrate | 97 mmol, 4.08 g | O.[OH-].[Li+]
solvent | MeOH | 120 mL | CO | CH4O
product | 2-Hydroxy-4-morpholin-4-yl-benzoic acid | OC1=C(C(=O)O)C=CC(=C1)N1CCOCC1 | C11H13NO4
